US07368578B2
To a mixture of (3-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-4-methoxyphenyl)methanol (7.0 g) and toluene (150 mL) was added thionyl chloride (3.16 g), and the mixture was heated under reflux for 1 hr. The reaction mixture was concentrated and ethyl acetate was added to the residue. The organic layer was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated to give 4-(5-chloromethyl-2-methoxyphenoxy)methyl-2-(2-furyl)-5-methyl-1,3-oxazole as pale-brown crystals (7.30 g, yield 99%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 115-116° C.

reactant | (3-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-4-methoxyphenyl)methanol | 7.0 g | O1C(=CC=C1)C=1OC(=C(N1)COC=1C=C(C=CC1OC)CO)C | C17H17NO5
reactant | thionyl chloride | 3.16 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(5-chloromethyl-2-methoxyphenoxy)methyl-2-(2-furyl)-5-methyl-1,3-oxazole | 7.30 g, yield 99% | ClCC=1C=CC(=C(OCC=2N=C(OC2C)C=2OC=CC2)C1)OC | C17H16ClNO4
